US06441017B1
Step F: 1-[1-(4-Cyano-3-fluorophenyl)ethyl]-5-(hydroxymethyl)imidazole
To a solution of 5-(tert-butyldimethylsilyloxymethyl)-1-[1-(4-cyano-3-fluorophenyl)ethyl]imidazole, as described above in Step E, (101 mg, 0.281 mmol) in THF (2 mL) was added tetrabutylammonium fluoride (0.309 mL of a 1.0 M solution in THF, 0.309 mmol) dropwise. The reaction mixture was stirred for 1 hour, then poured into saturated aqueous NaHCO3 (20 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient of CH2Cl2—0% to 10% MeOH, to yield the desired product as a pale solid.

reactant | 5-(tert-butyldimethylsilyloxymethyl)-1-[1-(4-cyano-3-fluorophenyl)ethyl]imidazole | [Si](C)(C)(C(C)(C)C)OCC1=CN=CN1C(C)C1=CC(=C(C=C1)C#N)F | C19H26FN3OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[1-(4-Cyano-3-fluorophenyl)ethyl]-5-(hydroxymethyl)imidazole | C(#N)C1=C(C=C(C=C1)C(C)N1C=NC=C1CO)F | C13H12FN3O
